US07795424B2
[2-(1-Azido-ethoxy)-ethoxy]-acetic acid
[2-(1-Azido-ethoxy)-ethoxy]-acetic acid ethyl ester (0.10 g, 0.46 mmol) was stirred with 4 M aqueous sodium hydroxide (1.15 ml, 4.6 mmol) and ethanol (1.15 ml) at room temperature. After 4 hrs, all the solvents were removed under reduced pressure and the residue was dissolved in 5 ml water. The solution was adjusted to pH 5 with 1 N KH2PO4 and then extracted with DCM (2×15 ml). The aqueous layer was then acidified with 1 N HCl to pH 2 and then extracted with DCM (3×25 ml). All the DCM extracts were combined, dried over MgSO4 and evaporated under reduced pressure. The title compound was obtained as a colourless solid (42 mg, 48.3%).

reactant | [2-(1-Azido-ethoxy)-ethoxy]-acetic acid ethyl ester | 0.46 mmol, 0.10 g | C(C)OC(COCCOC(C)N=[N+]=[N-])=O | C8H15N3O4
reactant | sodium hydroxide | 4.6 mmol, 4 M, 1.15 ml | [OH-].[Na+]
solvent | ethanol | 1.15 ml | C(C)O | C2H6O
product | [2-(1-Azido-ethoxy)-ethoxy]-acetic acid | N(=[N+]=[N-])C(C)OCCOCC(=O)O | C6H11N3O4
